US06310211B1
5-Chloro-8-hydroxy-7-iodo-2-methylquinoline (Formula R-2) Refer to Chart R
Iodine monchloride (19.0 g) is added to a solution of 5-chloro-8-hydroxy-2-methylquinoline (21.5 g) in 250 mL of MeOH, and the resulting mixture is stirred for 3 h. Additional iodine monochloride (4.5 g) is then added, and the mixture is stirred for another 18 h. The reaction mixture is quenched with sated Na2SO3 (aq), then neutralized with sat'd NaHCO, (aq). The solid precipitate is collected by filtration and dried under vacuum to give 31.22 g of the title compound as a pale green solid.

reactant | Iodine | II | I2
reactant | 5-chloro-8-hydroxy-2-methylquinoline | 21.5 g | ClC1=C2C=CC(=NC2=C(C=C1)O)C | C10H8ClNO
reactant | iodine monochloride | 4.5 g | ICl | ClI
solvent | MeOH | 250 mL | CO | CH4O
product | 5-Chloro-8-hydroxy-7-iodo-2-methylquinoline | 31.22 g | ClC1=C2C=CC(=NC2=C(C(=C1)I)O)C | C10H7ClINO
